US07723332B2
According to general procedure C, 4-Bromo-2-trifluoromethyl-benzenesulfonyl chloride (0.50 g, 1.54 mmol) and cyclobutylamine (0.33 mL, 3.85 mmol) were stirred together in dry dichloromethane (2 mL) for 16 hours. 4-bromo-N-cyclobutyl-2-(trifluoromethyl)benzenesulfonamide (0.53 g, 96%) was provided after purification. MS (ESI) m/z 358. HPLC purity 100.0% at 210-370 nm, 9.9 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-Bromo-2-trifluoromethyl-benzenesulfonyl chloride | 1.54 mmol, 0.50 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3BrClF3O2S
reactant | cyclobutylamine | 3.85 mmol, 0.33 mL | C1(CCC1)N | C4H9N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-bromo-N-cyclobutyl-2-(trifluoromethyl)benzenesulfonamide | 0.53 g, 96% | BrC1=CC(=C(C=C1)S(=O)(=O)NC1CCC1)C(F)(F)F | C11H11BrF3NO2S
